US04085111
A mixture of 1 g of 2-[2-methyl-4-(5-1H-tetrazolyl)phenoxy]nicotinic acid and 10 ml of concentrated sulfuric acid is heated at 180° C for 2.5 hours, and then poured into ice water. The crystalline precipitate is filtered off, washed with water and with methanol and recrystallized from dimethylformamide to give 0.5 g of 9-methyl-7-(5-1H-tetrazolyl)-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine melting at 290° C to 291° C with decomposition.

reactant | 2-[2-methyl-4-(5-1H-tetrazolyl)phenoxy]nicotinic acid | 1 g | CC1=C(OC2=C(C(=O)O)C=CC=N2)C=CC(=C1)C1=NN=NN1 | C14H11N5O3
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 9-methyl-7-(5-1H-tetrazolyl)-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine | 0.5 g | CC1=CC(=CC=2C(C=3C(=NC=CC3)OC21)=O)C2=NN=NN2 | C14H9N5O2
